US05173493
a solution of 8,9-dihydro-7-[(hydroxy) (5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-10-propylpyrido[1,2-a]-indol-6(7H)-one (1.65 g) in a mixture of acetic acid and water (4:1, 90 ml) was stirred at 60° C. for 4 hours. After evaporation of the solvent, the residue was diluted with as aqueous sodium bicarbonate solution and extracted three times with methylene chloride. The organic layer was washed with water and brine, dried over anhydrous magnesium sulfate, and evaporated in vacuo. The crystalline residue was suspended in a mixture of methanol and chloroform and filtered to give one isomer of 8,9-dihydro-7-[(hydroxy) (5-methyl-1H-imidazol-4-yl)methyl]-10-propylpyrido[1,2-a]indol-6(7H)-one with an upper Rf value in silica gel thin layer chromatography (TLC) (6% methanol-chloroform) (0.27 g), which was designated as the isomer A. The filtrate was evaporated and purified by silica gel column chromatography (6% methanol-methylene chloride). The fractions eluted first contained the isomer A and the fractions eluted later contained another isomer of 8,9-dihydro-7-[(hydroxy) (5methyl-1H-imidazol-4-yl)methyl]-10-propylpyrido[1,2-a]indol-6(7H)-one with a lower Rf value in TLC, which was designated as the isomer B.

reactant | 8,9-dihydro-7-[(hydroxy) (5-methyl-1-trityl-1H-imidazol-4-yl)methyl]-10-propylpyrido[1,2-a]-indol-6(7H)-one | 1.65 g | OC(C1CCC=2N(C3=CC=CC=C3C2CCC)C1=O)C=1N=CN(C1C)C(C1=CC=CC=C1)(C1=CC=CC=C1)C1=CC=CC=C1 | C39H37N3O2
solvent | acetic acid | C(C)(=O)O | C2H4O2
solvent | water | 90 ml | O | H2O
product | 8,9-dihydro-7-[(hydroxy) (5-methyl-1H-imidazol-4-yl)methyl]-10-propylpyrido[1,2-a]indol-6(7H)-one | OC(C1CCC=2N(C3=CC=CC=C3C2CCC)C1=O)C=1N=CNC1C | C20H23N3O2
